US07074800B1
To a suspension of ethyl 3-methoxy-4-hydroxybenzoate (19.6 g, 0.1 mol) and potassium carbonate (28 g, 0.2 mol) in dry DMF (200 ml) was added 4-(4-methylphenylsulphonyloxymethyl)-1-tert-butyloxycarbonylpiperidine (40 g, 0.11 mol). After stirring at 95° C. for 2.5 hours, the mixture was cooled to ambient temperature and partitioned between water and ethyl acetate/ether. The organic layer was washed with water, brine, dried (MgSO4) and evaporated. The resulting oil was crystallised from petroleum ether and the suspension was stored overnight (at 5° C.). The solid was collected by filtration, washed with petroleum ether and dried under vacuum to give ethyl 3-methoxy-4-(1-tert-butyloxycarbonylpiperidin-4-ylmethoxy)benzoate (35 g, 89%).

reactant | ethyl 3-methoxy-4-hydroxybenzoate | 0.1 mol, 19.6 g | COC=1C=C(C(=O)OCC)C=CC1O | C10H12O4
reactant | potassium carbonate | 0.2 mol, 28 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4-methylphenylsulphonyloxymethyl)-1-tert-butyloxycarbonylpiperidine | 0.11 mol, 40 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1CCN(CC1)C(=O)OC(C)(C)C | C18H27NO5S
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | ethyl 3-methoxy-4-(1-tert-butyloxycarbonylpiperidin-4-ylmethoxy)benzoate | 35 g, 89% | COC=1C=C(C(=O)OCC)C=CC1OCC1CCN(CC1)C(=O)OC(C)(C)C | C21H31NO6
